US04542158
To a solution of diflunisal (5.0 g) in 40 ml DMF was added 0.8 g of sodium hydride (oil suspension containing 60% of NaH). The resultant mixture was stirred for 1.5 hours at room temperature before 3.0 ml of ethyl 1-chloroethyl carbonate was added dropwise. The reaction mixture was stirred at room temperature overnight and concentrated in vacuo. The concentrate was partitioned between ether/ethyl acetate and acidified water. The organic layer was separated and the aqueous layer was extracted again with ether. The organic layers were combined, washed well with water, dried over anhydrous sodium sulfate and concentrated to 6.6 g of crude product. After further purification by chromatography (eluted through 120 g of silica gel with hexane, and then 5% ethyl acetate in hexane), the product was crystallized from hexane to afford 3.71 g of 1-(ethoxycarbonyloxy)ethyl 5-(2,4-difluorophenyl)salicylate.

reactant | diflunisal | 5.0 g | C1=CC(=C(C=C1C=2C=CC(=CC2F)F)C(=O)O)O | C13H8F2O3
reactant | sodium hydride | 0.8 g | [H-].[Na+]
reactant | ethyl 1-chloroethyl carbonate | 3.0 ml | C(OCC)(OC(C)Cl)=O | C5H9ClO3
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 1-(ethoxycarbonyloxy)ethyl 5-(2,4-difluorophenyl)salicylate | 3.71 g | FC1=C(C=CC(=C1)F)C1=CC=C(C(C(=O)OC(C)OC(=O)OCC)=C1)O | C18H16F2O6
